US04880841
A mixture of 8.4 g of 4-methoxy-3-methylthiophenylacetone, 6.7 g of 2-methoxyphenoxyethylamine, and 150 ml of methanol was refluxed for 2 hours. The reaction mixture was cooled to a temperature below 10° C. and after adding 2.5 g of sodium borohydride to the reaction mixture with stirring at temperatures below 10° C., the mixture was further stirred for 3 hours at room temperature. Then, the solvent was distilled off under reduced pressure and after adding water to the residue, the product was extracted with ethyl acetate. The extract was washed with water, dried by anhydrous magnesium sulfate, and then the solvent was distilled off to provide an oily product. The product was purified by a silica gel column chromatography (eluate: chloroform) to provide 8.5 g of 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylthio)anisole. The product (750 mg) was dissolved in 10 ml of methanol and after adding thereto a solution of 90 mg of anhydrous oxalic acid dissolved in 1 ml of methanol, the mixture was allowed to stand overnight at room temperature. The crystals thus formed were recovered by filtration and recrystallized from ethanol to provide 600 mg of 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylthio)anisole oxalate having a melting point of 173°-174° C.

reactant | 4-methoxy-3-methylthiophenylacetone | 8.4 g | COC1=C(C=C(C=C1)CC(C)=O)SC | C11H14O2S
reactant | 2-methoxyphenoxyethylamine | 6.7 g | COC(CN)OC1=CC=CC=C1 | C9H13NO2
reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | methanol | 150 ml | CO | CH4O
product | 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylthio)anisole | 8.5 g | COC1=C(OCCNC(CC2=CC(=C(C=C2)OC)SC)C)C=CC=C1 | C20H27NO3S
